US06011028
methyl 5-[3-(hexahydro-7-oxo-1H-azepin-2-yl)-1-propenyl]furan-2-carboxylate
The Isomer B title material of Example 18 in acetonitrile is coupled to methyl 5-bromo-furanate, prepared from 5-bromofuroic acid (Aldrich) and thionyl chloride in methanol, in the presence of palladium acetate, tri-o-tolylphosphine, and triethylamine by the method of Example 32 to provide the title material as either or both the Z and E isomers.

reactant | methyl 5-bromo-furanate | BrC1=CC=C(O1)C(=O)OC | C6H5BrO3
reactant | 5-bromofuroic acid | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | acetonitrile | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl 5-[3-(hexahydro-7-oxo-1H-azepin-2-yl)-1-propenyl]furan-2-carboxylate | O=C1CCCCC(N1)CC=CC1=CC=C(O1)C(=O)OC | C15H19NO4
